US09029409B2
To a solution of N-(3,4-difluorobenzyl)-6-((hydroxyimino)methyl)-2-methylpyrimidine-4-carboxamide (13.60 g, 44.4 mmol, Preparation #A.1.2) and 1-methyl-5-vinylpyridin-2(1H)-one (6 g, 44.4 mmol, Preparation #F.1.13) in DCM (150 mL) was added 9% aqueous sodium hypochlorite solution (80 mL, 1296 mmol, Avra labs) drop wise at 10-15° C. for about 30 min. Reaction mixture was allowed to stir for another 15-30 min, diluted the reaction mixture with water (100 mL) and the product extracted with DCM (2×100 mL). The combined organic layers was dried over sodiumsulphate and evaporated to dryness. The resulting crude material was purified by silica gel column chromatography by eluting with 2% methanol in DCM. Relevant fractions containing product were combined and evaporated under reduced pressure to afford N-(3,4-difluorobenzyl)-2-methyl-6-(5-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide 3 g (15.38%) as pale yellow solid; 1H NMR (400 MHz, DMSO): δ 9.606-9.574 (m, 1H), 8.179 (s, 1H), 7.872-7.866 (d, J=2.4 Hz, 1H), 7.527-7.497 (dd, J=9.6 Hz, 1H), 7.421-7.353 (m, 2H), 7.205-7.173 (m, 1H), 6.436-6.412 (d, J=9.6 Hz, 1H), 5.688-5.637 (m, 1H), 4.504-4.488 (d, J=6.4 Hz, 2H), 3.836-3.764 (m, 1H), 3.463-3.440 (m, 1H), 3.425 (s, 3H), 2.767 (s, 3H); MS m/z: 440.2 (M+H)+.

reactant | N-(3,4-difluorobenzyl)-6-((hydroxyimino)methyl)-2-methylpyrimidine-4-carboxamide | 44.4 mmol, 13.60 g | FC=1C=C(CNC(=O)C2=NC(=NC(=C2)C=NO)C)C=CC1F | C14H12F2N4O2
reactant | 1-methyl-5-vinylpyridin-2(1H)-one | 44.4 mmol, 6 g | CN1C(C=CC(=C1)C=C)=O | C8H9NO
reactant | sodium hypochlorite | 1296 mmol, 80 mL | Cl[O-].[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | N-(3,4-difluorobenzyl)-2-methyl-6-(5-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide | 3 g, 15.38% | FC=1C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2=CN(C(C=C2)=O)C)C)C=CC1F | C22H19F2N5O3
